US07897643B2
To a solution of 4-benzyl-3-{2-[5-(4-fluoro-2-trifluoromethyl-benzyloxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoyl}-oxazolidin-2-one (0.535 g, 0.78 mmol) in THF (9 mL) was added water (3 mL). The system was cooled to 0° C. To this cold solution was added LiOH.H2O (33 mg, 0.78 mmol) and 30% H2O2 (0.354 mL, 3.12 mmol,) and stirred at 0° C. for 20 min. The excess H2O2 was quenched by adding 1.5 M aqueous Na2SO3 solution (2.08 mL, 3.12 mmol) and stirred at room temperature for 5 min. The organic solvent was removed in vacuo. The resulting liquid was acidified to pH 2 by adding 1 N aqueous HCl solution. The aqueous layer was extracted with EtOAc (3×50 mL) and dried (MgSO4). The mixture was concentrated in vacuo to receive a crude mixture which was purified by ISCO silica gel column chromatography to yield (R)-2-[5-(4-Fluoro-2-trifluoromethyl-benzyloxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid (310 mg).

reactant | 4-benzyl-3-{2-[5-(4-fluoro-2-trifluoromethyl-benzyloxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoyl}-oxazolidin-2-one | 0.78 mmol, 0.535 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(C)C)C=1C=C(C=C(C1)OCC1=C(C=C(C=C1)F)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)=O | C37H32F7NO4
reactant | LiOH.H2O | 0.78 mmol, 33 mg | O[Li].O
reactant | H2O2 | 3.12 mmol, 0.354 mL | OO | H2O2
reactant | Na2SO3 | 3.12 mmol, 1.5 M, 2.08 mL | [O-]S(=O)[O-].[Na+].[Na+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | (R)-2-[5-(4-Fluoro-2-trifluoromethyl-benzyloxy)-4′-trifluoromethyl-biphenyl-3-yl]-4-methyl-pentanoic acid | 310 mg | FC1=CC(=C(COC=2C=C(C=C(C2)C2=CC=C(C=C2)C(F)(F)F)[C@H](C(=O)O)CC(C)C)C=C1)C(F)(F)F | C27H23F7O3
